US08389524B2
(i) 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){1-[(4,9-dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl)methyl]-4-piperidinyl}carbamate
A solution of 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){1-[(4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl)methyl]-4-piperidinyl}carbamate (80 mg, 0.145 mmol) and DDQ (49.4 mg, 0.218 mmol) in 1,4-dioxane (5 ml) was stirred at 120° C. for 2 h. A further 0.5 eq of DDQ (17 mg) was added and the solution stirred for a further 2 h. The mixture was allowed to cool to rt and was treated with sat NaHCO3 (10 ml). The aqueous layer was extracted with 20% MeOH/DCM (3×100 ml). The organic layers were combined, dried MgSO4, filtered and concentrated to afford the crude product (64 mg, 83%).

reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){1-[(4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl)methyl]-4-piperidinyl}carbamate | 0.145 mmol, 80 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CC2CN1C(C=CC=3CCC(N2C13)=O)=O | C29H37N5O6
reactant | DDQ | 0.218 mmol, 49.4 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | DDQ | 17 mg, 0.5 eq | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){1-[(4,9-dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl)methyl]-4-piperidinyl}carbamate | 64 mg, 83% | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CC2CN1C(C=CC=3C=CC(N2C13)=O)=O | C29H35N5O6
